US06015822
Under nitrogen, a solution of 28.5 g (0.16 mol) of 6-hydroxy-3,3-dimethylindan-1-one (J. Org. Chem. 19; 1954; 305) in 200 ml of DMF was added dropwise to a solution of 5.6 g (0.19 mol) of 80% sodium hydride in 250 ml of DMF. After 1 h at RT, 30.4 g (0.17 mol) of 1-iodobutane were added, and the mixture was stirred at RT for 2 h. The solvent was distilled off under reduced pressure, the residue was taken up in EA and water and the organic phase was washed successively with dil. hydrochloric acid and dil. sodium hydroxide solution. This procedure gave 31.3 g of 6-butoxy-3,3-dimethylindan-1-one.

reactant | 6-hydroxy-3,3-dimethylindan-1-one | 0.16 mol, 28.5 g | OC1=CC=C2C(CC(C2=C1)=O)(C)C | C11H12O2
reactant | sodium hydride | 0.19 mol, 5.6 g | [H-].[Na+]
reactant | 1-iodobutane | 0.17 mol, 30.4 g | ICCCC | C4H9I
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 6-butoxy-3,3-dimethylindan-1-one | 31.3 g | C(CCC)OC1=CC=C2C(CC(C2=C1)=O)(C)C | C15H20O2
